US07598249B2
4-Quinolin-3-ylmethyl-piperazine-1-carboxylic acid pyrimidin-4-ylamide
The title compound was prepared from pyrimidin-4-yl-carbamic acid phenyl ester and 3-piperazin-1-ylmethyl-quinoline in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 8.94 (d, J=2.0 Hz, 1H), 8.76 (s, 1H), 8.54 (d, J=6.1 Hz, 1H), 8.25 (s, 1H), 8.20 (d, J=8.8 Hz, 1H), 7.99 (d, J=5.8 Hz, 1H), 7.87 (d, J=7.8 Hz, 1H), 7.79-7.75 (m, 1H), 7.64-7.60 (m, 1H), 7.38 (br s, 1H), 3.85 (s, 2H), 3.64 (br s, 4H), 2.66 (bs, 4H).

reactant | pyrimidin-4-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NC=NC=C1)=O | C11H9N3O2
reactant | 3-piperazin-1-ylmethyl-quinoline | N1(CCNCC1)CC=1C=NC2=CC=CC=C2C1 | C14H17N3
product | 4-Quinolin-3-ylmethyl-piperazine-1-carboxylic acid pyrimidin-4-ylamide | N1=CN=C(C=C1)NC(=O)N1CCN(CC1)CC=1C=NC2=CC=CC=C2C1 | C19H20N6O
